US09422292B2
6-(4-chlorophenyl)−10-fluoro-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (Compound 17)
A disposable tube was charged with 10-fluoro-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (22 mg, 0.101 mmol), 1-chloro-4-iodobenzene (31.3 mg, 0.131 mmol), RuPhos precat. (3.67 mg, 5.04 μmol), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (2.352 mg, 5.04 μmol), sodium 2-methylpropan-2-olate (19.38 mg, 0.202 mmol), and a stirbar before being evacuated and purged with nitrogen three times. Toluene (1 mL, 0.4 M) was added, and the mixture was stirred at 90° C. 6 h. The mixture was cooled, diluted with ethyl acetate, filtered, and concentrated before being purified by silica gel chromatography (eluting with methylene chloride/methanol/1% ammonium hydroxide) and reverse phase HPLC to yield the title compound as a white amorphous solid (0.012 g, 0.036 mmol, 36%).

reactant | 10-fluoro-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.101 mmol, 22 mg | FC1=CC=CC=2NCCC=3N(C21)C(=NN3)C | C11H11FN4
reactant | 1-chloro-4-iodobenzene | 0.131 mmol, 31.3 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | RuPhos | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 5.04 μmol, 2.352 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | sodium 2-methylpropan-2-olate | 0.202 mmol, 19.38 mg | CC(C)(C)[O-].[Na+]
product | 6-(4-chlorophenyl)−10-fluoro-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.036 mmol, 0.012 g, 36% | ClC1=CC=C(C=C1)N1C2=C(N3C(CC1)=NN=C3C)C(=CC=C2)F | C17H14ClFN4
